US06046213
A mixture of sodium borohydride (0.049 g, 1.30 mmol) and ethanol (5 mL) was stirred 10 min and then 1-(3-fluoro-4-triisopropylsilyloxyphenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-one (0.738 g, 1.30 mmol in 10 mL of ethanol) was added with a 5 mL ethanol rinse. The reaction was stirred at ambient temperature overnight. The white precipitate which formed was collected by filtration to afford 0.335 g (45%) of (1R*,2R*)-1-(3-fluoro-4-triisopropylsilyloxyphenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-ol which had: NMR δ 7.63 (s, 4 H), 7.07 (dd, J=2, 11.5 Hz, 1 H), 6.98-6.84 (m, 2 H), 5.13 (s, 1 H), 4.20 (d, J=9.5 Hz, 1 H), 3.06 (sym m, 1 H), 2.81-2.71 (m, 1 H), 2.70-2.50 (m, 3 H), 2.15 (sym m, 2 H), 1.81 (distorted d, J=14 Hz, 2 H), 1.59 (s, 1 H), 1.33-1.19 (m, 3 H), 1.08 (d, J=7 Hz, 18 H), 0.81 (d, J=6.5 Hz, 3 H). The product also contained about 7% of the erythro diastereomer but was suitable for use without additional purification.

reactant | sodium borohydride | 1.30 mmol, 0.049 g | [BH4-].[Na+]
reactant | 1-(3-fluoro-4-triisopropylsilyloxyphenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-one | 1.30 mmol, 10 mL, 0.738 g | FC=1C=C(C=CC1O[Si](C(C)C)(C(C)C)C(C)C)C(C(C)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F)=O | C30H41F4NO3Si
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (1R*,2R*)-1-(3-fluoro-4-triisopropylsilyloxyphenyl)-2-(4-(4-trifluoromethylphenyl)-4-hydroxypiperidin-1-yl)-propan-1-ol | 0.335 g, 45% | FC=1C=C(C=CC1O[Si](C(C)C)(C(C)C)C(C)C)[C@H]([C@@H](C)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F)O | C30H43F4NO3Si
